US06133303
6-(2-Imidazole-1-yl-ethoxy)-2-pyridin-4-ylmethylene-3,4-dihydro-2H-naphthalen-1-one
6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.50 g, 1.95 mmol) was reacted with 4-pyridinecarboxaldehyde (0.248 g, 2.3 mmol) in 2.5 mL of 4% KOH for 8 hours at room temperature. The reaction was diluted with water, the resulting mixture was filtered, and the filtrate was extracted into EtOAc. The combined extracts were evaporated to dryness, and the resulting yellow solid was purified twice by flash chromatography (silica gel, 120 g, 9% MeOH in DCM) to afford 0.146 g of a yellow oil which crystallized on standing. Recrystallization from minimal iPrOH afforded the title compound as a light yellow powder (0.041 g, 6%), mp 128.5-129° C.; CI-MS mi/e 345 (M+), 346 (M+ +1);

reactant | 6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 1.95 mmol, 0.50 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 4-pyridinecarboxaldehyde | 2.3 mmol, 0.248 g | N1=CC=C(C=C1)C=O | C6H5NO
solvent | KOH | 2.5 mL | [OH-].[K+]
solvent | water | O | H2O
product | 6-(2-Imidazole-1-yl-ethoxy)-2-pyridin-4-ylmethylene-3,4-dihydro-2H-naphthalen-1-one | 0.146 g | N1(C=NC=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC1=CC=NC=C1 | C21H19N3O2
